US08008481B2
2-[5-(2-Amino-pyrimidin-4-ylamino)-1H-indazol-7-yl]-1H-indole-7-carboxylic acid methyl ester (Preparation #F.8.1, 0.100 g, 0.000250 mol) was added to a solution of lithium aluminum hydride in tetrahydrofuran (1.0M, 1.0 mL) at about 0° C. in 3 portions. Additional THF (1.0 mL) was added after about 10 min., and after about 40 min, the mixture was allowed to warm to ambient temperature. After about a further 60 min, lithium aluminum hydride in THF (1.0M, 1 mL) was added. About 16 hours later, the mixture was quenched with water and neutralized with a saturated aqueous solution of ammonium chloride. The mixture was diluted with EtOAc, and the layers were separated. The aqueous layer was further extracted with EtOAc, and the combined organics were dried over anhydrous MgSO4 and concentrated to yield {2-[5-(2-amino-pyrimidin-4-ylamino)-1H-indazol-7-yl]-1H-indol-7-yl}-methanol (28 mg, 30% yield); LC/MS Rt (Method e) 0.8 min; m/z (M−H)− 370.5.

reactant | 2-[5-(2-Amino-pyrimidin-4-ylamino)-1H-indazol-7-yl]-1H-indole-7-carboxylic acid methyl ester | 0.000250 mol, 0.100 g | COC(=O)C=1C=CC=C2C=C(NC12)C=1C=C(C=C2C=NNC12)NC1=NC(=NC=C1)N | C21H17N7O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1.0M, 1.0 mL | O1CCCC1 | C4H8O
solvent | THF | 1.0M, 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | {2-[5-(2-amino-pyrimidin-4-ylamino)-1H-indazol-7-yl]-1H-indol-7-yl}-methanol | 28 mg, 30% yield | NC1=NC=CC(=N1)NC=1C=C2C=NNC2=C(C1)C=1NC2=C(C=CC=C2C1)CO | C20H17N7O
